US06762300B2
0.30 g of P(t-Bu)3, 4.5 g of 5-bromobenzofuran-2-carboxamide, 4.9 g of benzylpiperazine and 5.0 g of Na t-OBu are added to a suspension of 0.085 g of Pd(II) acetate in 150 ml of xylene after the latter has been stirred for 15 minutes, and the mixture is warmed at 125° C. for 12-18 hours under the protective gas nitrogen. After cooling, the mixture is added to 500 ml of 2N hydrochloric acid, and the aqueous phase is extracted 3 times with 200 ml of ethyl acetate. The aqueous phase is adjusted to pH 10 using aqueous NaOH (20%) with pH and temperature monitoring (20-25° C.), and the 5-(4-benzyl-1-piperazinyl)benzofuran-2-carboxamide produced as a solid is filtered off and crystallized, for example, from ethanol/water (product weight: 4.0 g/64%/m.p. 277-279°).

reactant | P(t-Bu)3 | 0.30 g | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 5-bromobenzofuran-2-carboxamide | 4.5 g | BrC=1C=CC2=C(C=C(O2)C(=O)N)C1 | C9H6BrNO2
reactant | benzylpiperazine | 4.9 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | hydrochloric acid | 2N, 500 ml | Cl | ClH
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-(4-benzyl-1-piperazinyl)benzofuran-2-carboxamide | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)N)C1 | C20H21N3O2
